US07968542B2
Synthesis of 5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid (1-methyl-1H-pyrazol-5-ylmethyl)amide
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (50 mg, 0.17 mmol) and 5-hydrazinocarbonylthiophene-2-carboxylic Acid (1-methyl-1H-pyrazol-5-ylmethyl)amide (49 mg, 0.17 mmol) prepared in Reference Synthetic Example 18 were dissolved in N,N-dimethylformamide (0.50 mL) and heated at 70° C. for 24 hours and cooled to room temperature. After addition of water, the precipitated crystals were recovered by filtration, washed with water and chloroform and dried to give the desired product (yield 76%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.17 mmol, 50 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic Acid (1-methyl-1H-pyrazol-5-ylmethyl)amide | 0.17 mmol, 49 mg | CN1N=CC=C1CNC(=O)C=1SC(=CC1)C(=O)NN | C11H13N5O2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
product | 5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid (1-methyl-1H-pyrazol-5-ylmethyl)amide | yield 76% | CN1N=CC=C1CNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C23H19Cl2N5O3S2
